US06339160B1
To a solution of (S)-(+)-5-oxo-tetrahydrofuran-2-carboxylic acid (1.0 g, 7.68 mmols) and N-methylmorpholine (0.84 ml, 7.68 mmols) in anhydrous/THF anhydrous dioxan 2/1 (15 ml), cooled at −15° C. was added dropwise, under stirring, the equivalent quantity of isobutylchloroformate (1.04 ml, 7.68 mmols). After 30 minutes a solution of L-leucine tertbutylester (1.44 g, 7.68 mmols) and anhydrous THF (5 ml) was slowly added, maintaining the mixture under stirring at −15° C. for two hours. The reaction mixtures was diluted with CH2Cl2 (70 ml) and washed with NaCl saturated solution (20 ml) KHSO4 1M (20+10 ml), NaHCO3 saturated solution (20+10 ml) and NaCl saturated solution (20 ml). The organic phase was dried on Na2SO4 and concentrated at reduced pressure. The raw product was purified through chromatography on silica gel (CH2Cl2/i-PrOH 98/2). By grinding in n-hexane the solid raw residue, the N-{[(S)-(5-Oxo-tetrahydrofuran-2-yl)carbonyl]}-L-leucine tertbutyl-ester was obtained as white crystals: 920 mg (40%); m.p. 79-81° C.; [a]D22=−25° (1, methanol); IR (CHCl3): 3415, 2934, 1788, 1727, 1677, 1517, 1369, 1149 cm−1; 1H-NMR (CDCl3): d 0.87 and 0.97 [two s, 6, CH2CH(CH3)2], 1.18-1.62 [m, 3, CH2CH(CH3)2 and 1.40 (s, 9, C(CH3)3], 2.15-2.80 (m, 4, ring CH2CH2), 4.25-4.55 (m, 1, ring CH), 4.62-4.88 (m, 1, aCH), 6.56 (d, 1, NH, J=8 Hz). Calculated for C15H25NO5: C, 60.18; H, 8.42; N, 4.68. Found C, 60.12; H, 8.61; N, 4.65%.

reactant | (S)-(+)-5-oxo-tetrahydrofuran-2-carboxylic acid | 7.68 mmols, 1.0 g | O=C1CC[C@H](O1)C(=O)O | C5H6O4
reactant | N-methylmorpholine | 7.68 mmols, 0.84 ml | CN1CCOCC1 | C5H11NO
reactant | isobutylchloroformate | 7.68 mmols, 1.04 ml | C(C(C)C)OC(=O)Cl | C5H9ClO2
reactant | L-leucine tertbutylester | 7.68 mmols, 1.44 g | C(C)(C)(C)OC([C@@H](N)CC(C)C)=O | C10H21NO2
solvent | CH2Cl2 | 70 ml | C(Cl)Cl | CH2Cl2
solvent | THF | 5 ml | C1CCOC1 | C4H8O
solvent | THF | 15 ml | C1CCOC1 | C4H8O
product | N-{[(S)-(5-Oxo-tetrahydrofuran-2-yl)carbonyl]}-L-leucine tertbutyl-ester | C(C)(C)(C)OC([C@@H](NC(=O)[C@H]1OC(CC1)=O)CC(C)C)=O | C15H25NO5
